US07776897B2
Methyl 1-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylate and hydrazine monohydrate were reacted in methanol under heating to obtain 1-[(tert-butoxycarbonyl)amino]cyclopentanecarbohydrazide.

reactant | Methyl 1-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylate | C(C)(C)(C)OC(=O)NC1(CCCC1)C(=O)OC | C12H21NO4
reactant | hydrazine monohydrate | O.NN
solvent | methanol | CO | CH4O
product | 1-[(tert-butoxycarbonyl)amino]cyclopentanecarbohydrazide | C(C)(C)(C)OC(=O)NC1(CCCC1)C(=O)NN | C11H21N3O3
